US09403846B2
Step 2: Synthesis of 1-[(2S)-tetrahydrofuran-2-yl]but-3-en-1-one (C93)
(2S)—N-Methoxy-N-methyltetrahydrofuran-2-carboxamide (C92) was converted to the product using the method described for the synthesis of 1-[(1R,2R)-2-methylcyclopropyl]but-3-en-1-one (C80) in Example 20. The resulting product was used in the next step without further purification. Yield: 19 g, ≦0.14 mol, ≦87%.

reactant | (2S)—N-Methoxy-N-methyltetrahydrofuran-2-carboxamide | CON(C(=O)[C@H]1OCCC1)C | C7H13NO3
reactant | 1-[(1R,2R)-2-methylcyclopropyl]but-3-en-1-one | C[C@H]1[C@@H](C1)C(CC=C)=O | C8H12O
product | 1-[(2S)-tetrahydrofuran-2-yl]but-3-en-1-one | O1[C@@H](CCC1)C(CC=C)=O | C8H12O2
